US04305881
A solution of 22.4 g (52 mmol, 1 equivalent) of (20S)-1α,2α-epoxy-20-methyl-21-tetrahydropyranyloxy-pregna-4,6-dien-3-one in 1.25 liters of absolute ether is added dropwise within 45 minutes while stirring in an argon atmoshere at -33° C. to a solution of 1.453 g (0.21 g-atom), 4 equivalents) of lithium in 2.1 liters of liquid ammonia. In so doing, when the resulting mixture is only just light blue in colour, the dropwise addition is interrupted briefly and 0.363 g (52.3 mg-atom), 1 equivalent) of lithium is added. After completion of the dropwise addition, the mixture is stirred for 15 minutes and the blue colour is removed from the mixture by the addition of 2 ml of isoprene. With stirring there are added in portions 13.98 g (0.26 mol, 5 equivalents) of ammonium chloride. The mixture is treated in portions under argon at -33° C. with 16.048 g (0.30 mol, 5.7 equivalents) of ammonium chloride, and then with 2.082 g (0.3 g-atom, 5.7 equivalents) of lithium and, as soon as these additions have reacted, the same procedure, i.e. the addition of 16.048 g of ammonium chloride followed by 2.082 g of lithium is repeated a further four times. The mixture is treated with 75 g of ammonium chloride and ammonia is evaporated until the temperature of the mixture has reached 0° C. The residue is treated with 0.2 liter of saturated sodium chloride solution and 1 liter of water, extracted with 3 liters of ether and twice with 2.5 liters of ethyl acetate. The extracts are washed twice with 0.5 liter of saturated sodium chloride solution, combined, dried over sodium sulphate and concentrated at 40° C./11 Torr. The residue is dissolved in 75 ml of benzene and added to a column of 340 g of silica gel prepared in hexane/ether (9:1). Elution (a) with 3 liters of hexane/ether (4:1) and 14 liters of hexane/ether (1:1) yield 2.39 g of apolar fractions and (b) with 19 liters of ether yields 19.7 g (86.78%) of crude (20S)-1α,3β-dihydroxy-20-methyl-21-tetrahydropyranyloxy-pregn-5-ene. Recrystallisation from methanol gives white crystals of melting point 138°-141° C.; [α]D25 =-48.8° (c=0.5 in chloroform).

reactant | (20S)-1α,2α-epoxy-20-methyl-21-tetrahydropyranyloxy-pregna-4,6-dien-3-one | 52 mmol, 22.4 g, 1 equivalent | O1[C@H]2[C@@H]1C(C=C1C=C[C@H]3[C@@H]4CC[C@H]([C@@H](COC5OCCCC5)C)[C@]4(CC[C@@H]3[C@@]21C)C)=O | C27H38O4
reactant | lithium | [Li] | Li
reactant | ammonia | N | H3N
reactant | ammonium chloride | 0.26 mol, 13.98 g, 5 equivalents | [Cl-].[NH4+]
reactant | ammonium chloride | 0.30 mol, 16.048 g, 5.7 equivalents | [Cl-].[NH4+]
reactant | lithium | 2.082 g, 5.7 equivalents | [Li] | Li
reactant | ammonium chloride | 16.048 g | [Cl-].[NH4+]
reactant | lithium | 2.082 g | [Li] | Li
reactant | ammonium chloride | 75 g | [Cl-].[NH4+]
solvent | ether | 1.25 liters | CCOCC | C4H10O
product | (20S)-1α,3β-dihydroxy-20-methyl-21-tetrahydropyranyloxy-pregn-5-ene | 19.7 g, 86.78% | O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](COC5OCCCC5)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C27H44O4
